* C:\Users\seijirom\KLayout\salt\ICPS2023_5\Samples\Semicon2023\NAND\nand_min_tb.asc
XX1 B A N001 0 out nand_min
V1 B 0 PULSE(0 3 0 0 0 2m 4m)
V2 A 0 PULSE(0 3 0 0 0 1m 2m)
V3 N001 0 3

* block symbol definitions
.subckt nand_min A B VDD VSS Y
M1 Y B VDD VDD pch l=10.0U w=40.0U
M2 Y A VDD VDD pch l=10.0U w=40.0U
M3 Y A N001 VSS nch l=10.0U w=10.0U
M4 N001 B VSS VSS nch l=10.0U w=10.0U
.ends nand_min

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\seijirom\AppData\Local\LTspice\lib\cmp\standard.mos
.include %HOMEPATH%\KLayout\salt\ICPS2023_5\Technology\tech\models\SOI_CMOS
.tran 10m
.backanno
.end
